US06399627B1
To a solution of (2E)-N-[4-(2-{[(tert-butyl)amino]sulfonyl}phenyl)phenyl]-3-(3-cyanophenyl)-2-fluorobut-2-enamide (230 mg, 0.47 mmol) in 15 ml DMF was added cesium carbonate (460 mg, 1.41 mmol) and bromomethyl acetate (355 mg, 2.35 mmol). The reaction mixture was stirred at room temperature for 4 hours then diluted with 25 ml of ethyl acetate. Organic was washed with 3×25 ml water, 3×25 ml saturated brine solution, dried over magnesium sulfate, filtered and concentrated in vacuo to give methyl 2-{(2E)-N-[4-(2-{[(tert-butyl)amino]-sulfonyl}phenyl)phenyl]-3-(3-cyanophenyl)-2-fluorobut-2-enoylamino}acetate (230 mg, 86%) as yellow foam. ES-MS (M+H+): 563.2.

reactant | (2E)-N-[4-(2-{[(tert-butyl)amino]sulfonyl}phenyl)phenyl]-3-(3-cyanophenyl)-2-fluorobut-2-enamide | 0.47 mmol, 230 mg | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)NC(/C(=C(/C)\C1=CC(=CC=C1)C#N)/F)=O | C27H26FN3O3S
reactant | cesium carbonate | 1.41 mmol, 460 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | bromomethyl acetate | 2.35 mmol, 355 mg | C(C)(=O)OCBr | C3H5BrO2
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
product | methyl 2-{(2E)-N-[4-(2-{[(tert-butyl)amino]-sulfonyl}phenyl)phenyl]-3-(3-cyanophenyl)-2-fluorobut-2-enoylamino}acetate | 230 mg, 86% | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)N(CC(=O)OC)C(/C(=C(/C)\C1=CC(=CC=C1)C#N)/F)=O | C30H30FN3O5S
